US07030128B2
3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine was reacted with 5-bromo-2-(4-fluorophenyl)pyridine by the method of Example 1 to furnish 3-[2-(4-fluorophenyl)pyridin-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (47mg) as a yellow solid: δH (400 MHz, CDCl3) 7.19-7.25 (2H, m), 7.31 (1H, d, J 7), 7.90-7.97 (2H, m), 8.06-8.11 (2H, m), 8.19 (1H, s), 8.82 (1H, d, J 7), 8.91 (1H, dd, J 2 and 1); m/z (ES+) 358, 359 (M++H).

reactant | 3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 5-bromo-2-(4-fluorophenyl)pyridine | BrC=1C=CC(=NC1)C1=CC=C(C=C1)F | C11H7BrFN
product | 3-[2-(4-fluorophenyl)pyridin-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 47mg | FC1=CC=C(C=C1)C1=NC=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H10F4N4
